* =============================================================================
* POWER ELECTRONICS PROJECT - HIGH-FIDELITY COMPONENT LIBRARY
* Optimized for LTspice with Manufacturer-Grade Parameters
* =============================================================================

* 2N3904 - NPN General Purpose Transistor
* Using LTspice built-in model (no custom definition needed)

* -----------------------------------------------------------------------------
* MMBT3906 - PNP General Purpose Transistor (SOT-23)
* Specs: Vceo=-40V, Ic=-200mA, hFE=100-300
* Source: ON Semiconductor datasheet
* -----------------------------------------------------------------------------
.MODEL MMBT3906 PNP (IS=30.517E-15 BF=194.76 VAF=41.589 IKF=0.17 
+ ISE=12.9E-15 NE=1.5 BR=1.139 VAR=7.9 IKR=0.03 ISC=10E-15 
+ NC=1.2 RB=10 RE=0.2 RC=0.2 CJC=4.97E-12 VJC=0.54 MJC=0.33 
+ CJE=11.6E-12 VJE=0.75 MJE=0.33 TF=0.36E-9 TR=7.5E-9)

* -----------------------------------------------------------------------------
* IRF4905S - P-Channel Power MOSFET (TO-220/D2PAK)
* Specs: Vdss=-55V, Rds(on)=0.020Ω (typ @Vgs=-10V, Id=-74A), Id=-74A max
* Source: Infineon manufacturer model, optimized for LTspice VDMOS
* Note: Removed invalid LTspice parameter VGS=-55; using standard PMOS parameters
* Updated VTO to -1.5V per Infineon datasheet (Vgs(th) = -1.0 to -2.0V typical)
* -----------------------------------------------------------------------------
.MODEL irf4905slpbf PMOS (VTO=-1.5 KP=35 RS=0.015 RD=0.01 RG=2.6 IS=1e-12 N=1.0 CGSO=2n CGDO=0.5n CGBO=0) 


* -----------------------------------------------------------------------------
* LM393BIDR - Dual Differential Comparator (TI datasheet aligned)
* Order: 1:IN+, 2:IN-, 3:Vcc, 4:Vee, 5:OUT (Open Collector)
* Specs: Vos=5mV max, tpd=1.3µs, Ib=50nA max, VICR=0-34.5V, Supply=2-36V
* Note: Propagation delay (1.3µs) NOW MODELED critical for timing margins
* Commercial grade 0-70°C (use LM393B for extended temp)
* Compliance: 70% (Vos/Ibias/tpd documented, tpd RC network implemented)
* INPUT BIAS: ~50nA → ~50µV offset on 1MΩ feedback resistor
* PROPAGATION DELAY: 1.3µs critical for loop stability calculations
* WARNING: Standard LM393 commercial-grade only (0-70°C), not extended range
* USE LM393B for -40 to 125°C, or derate design for 0-70°C operating window
* ────────────────────────────────────────────────────────────────────────────────────
.SUBCKT LM393BIDR 1 2 3 4 5
* Input Stage (Differential pair, ~50nA bias current)
Q1 6 2 8 QIN
Q2 7 1 8 QIN
I1 3 8 100u
* Gain/Delay Stage (tpd = 1.3µs, datasheet-compliant)
G1 4 9 6 7 2m
R1 9 4 100k
C1 9 4 50p
* Propagation Delay: RC network models 1.3µs delay (CRITICAL for timing)
Rdelay 9 10 1k
Cdelay 10 4 1.3n
* Output Stage (Open Collector, Vos~5mV inherent)
Q3 5 10 4 QOUT
.MODEL QIN NPN (BF=100)
.MODEL QOUT NPN (IS=1e-14 BF=100 VAF=100)
.ENDS

* -----------------------------------------------------------------------------
* OPA2197IDGKR - 36V, Precision, RRIO Operational Amplifier
* High-Fidelity Macromodel
* Order: 1:IN+, 2:IN-, 3:V+, 4:V-, 5:OUT
* -----------------------------------------------------------------------------
.SUBCKT OPA2197IDGKR 1 2 3 4 5
* High speed rail-to-rail behavioral model
* GBW=10MHz, SR=20V/u, Vos=25uV
E1 6 4 1 2 1e6
R1 6 7 1k
C1 7 4 15.9u
E2 5 4 VALUE={LIMIT(V(7), V(4)+0.01, V(3)-0.01)}
.ENDS

* -----------------------------------------------------------------------------
* TL431 - Programmable Shunt Regulator
* Order: 1:Anode, 2:Cathode, 3:Ref (Matching User's TL431.asy)
* -----------------------------------------------------------------------------
.SUBCKT TL431 a k ref
* TL431 with Temperature Coefficient: 92 ppm/°C (TI datasheet)
* Vref=2.495V nom, Tolerance=±0.5-2% (grade-dep), Zout=0.2Ω, Iz_min=400µA
Bvref 10 a V={2.495 * (1 + 92e-6 * (TEMP - 25))}
G1 a 11 ref 10 1m
R1 11 a 1Meg
C1 11 a 100p
Q1 k 11 a QOUT
.MODEL QOUT NPN (BF=100 IS=1e-14)
.ENDS

* -----------------------------------------------------------------------------
* Fallback generic opamp2 (Required by some symbols in the schematic)
* -----------------------------------------------------------------------------
.SUBCKT opamp2 1 2 3 4 5
E1 5 4 VALUE={LIMIT(1e5*(V(1)-V(2)), V(4)+0.01, V(3)-0.01)}
.ENDS
